US05198208
(d) 2-Amino-2-benzyloxymethyl-1-phthalimido-ethane
Into a stirred solution of 2-benzyloxymethyl-2-azido-1-phthalimido-ethane (500 mg, 1.5 mmol) in 4:1 pyridine/water (25 ml) was bubbled hydrogen sulphide, and the reaction was monitored by TLC. After 4 hours, the gas flow was stopped, and the reaction flask sealed. The intense green reaction mixture was stirred for another 17 hours. TLC indicated full conversion of the starting material. Glacial acetic acid was added to pH 7, and the reaction mixture was evaporated to dryness in vacuo. After evaporation from ethanol (3×25 ml), the resulting brown solid was purified by chromatography. Yield=20%. The structure was confirmed by NMR and IR.

reactant | 2-benzyloxymethyl-2-azido-1-phthalimido-ethane | 1.5 mmol, 500 mg | C(C1=CC=CC=C1)OCC(CN1C(C=2C(C1=O)=CC=CC2)=O)N=[N+]=[N-] | C18H16N4O3
reactant | pyridine water | 25 ml | N1=CC=CC=C1.O
reactant | hydrogen sulphide | S | H2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Amino-2-benzyloxymethyl-1-phthalimido-ethane | Yield=20% | NC(CN1C(C=2C(C1=O)=CC=CC2)=O)COCC2=CC=CC=C2 | C18H18N2O3
